* tb_transient_noise -- input-referred noise floor of the WHOLE comparator
* (comparator_dut, the ratified full latch -- NOT comparator_dut_analog),
* measured by TRANSIENT-noise decision statistics over the full PVT grid.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* section, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm. Parameters from this manifest's own "params":
* vn_na, vn_ts (the calibrated trnoise() source), od_x (the probe overdrive).
*
* WHY TRANSIENT, NOT `.noise`. ngspice-46 has no automatic per-device
* transient noise (no PSS/pnoise) -- confirmed against the installed
* checkout (sim/comparator-preamp-noise/testbench/tb_preamp_noise.spice's
* own header) and against ngspice's upstream source
* (src/spicelib/devices/vsrc/vsrcload.c's TRNOISE case): the mechanism this
* repo's CLAUDE.md calls "transient-noise runs" is ngspice's TRNOISE
* independent-source function -- an explicit, calibrated noise voltage
* injected at the DUT's own input port, not a small-signal device-physics
* analysis. That is what this deck does.
*
* WHY THE WHOLE LATCH, NOT THE REDUCED SUB-MODEL. comparator_dut_analog
* (what sim/comparator-preamp-noise/ instantiates) is DR-0001's own named
* diode-connected, loop-broken interim path -- it has no regenerative loop
* at all, by construction (design/README.md). This deck instantiates
* comparator_dut, the full contract subckt (vinp vinn clk ibias dout doutb
* vdd vss -- sim/dut/README.md), with its real CLK strobe and its real
* cross-coupled regenerative pair, so the injected noise propagates through
* the SAME nonlinear dynamics a real decision does.
*
* METHOD: DECISION STATISTICS (a "hit-rate" / probit measurement), not a
* PSD integral. Three parallel instances at three overdrives (-od_x, 0,
* +od_x), each with its OWN independent trnoise() realization, are re-run
* dowhile-style for many trials (harness/report.py's evidence.mc_seed field
* records the seed and count, per CLAUDE.md's "seeds and run counts
* committed"). Each trial's dout is read once, INSIDE THE EVALUATE PHASE
* (at 5 ns; CLK falls at 5.1 ns) -- because that samples the REGENERATIVE
* DECISION itself rather than the output latch's retention of it, and lets
* the transient stop before the reset. NOT because the output cannot be read
* later: the NOR SR pair does hold between strobes (comparator-regeneration/
* reads it at 55 ns against a CLK that fell at 50.1 ns, 45/45 points) -- see
* this experiment's README.md "Debugging notes", which corrects an earlier
* draft of this deck's header that claimed otherwise.
* The fraction of trials that decide HIGH at each rung is the raw, directly
* observed quantity (frac_high_*); this experiment's README.md converts it to
* an implied 1-sigma input-referred noise by a TWO-RUNG PROBIT SLOPE
* inversion -- sigma = 2*od_x / (Phi^-1(frac_high_plus) -
* Phi^-1(frac_high_minus)), whose probit DIFFERENCE cancels any effective
* threshold offset exactly, rather than the per-rung form od_x/Phi^-1(p)
* which converts each corner's own sampling fluctuation straight into
* apparent noise (measured: the per-rung pair swings +/-20-30% between two
* runs of the identical calibrated density where the slope form reproduces
* to 1.1%). The zero-overdrive rung is the third, redundant constraint and
* the noise-injection guard. Documented there, not computed in-deck -- see
* "Why no sigma_uv measure" below.
*
* SEED REPRODUCIBILITY: RECORDED, NOT ACHIEVED. `setseed` is issued at the
* top of the control block (tb.json's analyses) for consistency with this
* repo's other Monte-Carlo bench and to satisfy testbench.py's
* record_kind='monte-carlo' loader guard -- but on this repo's pinned
* ngspice-46, TRNOISE's internal generator is empirically confirmed NOT to
* be controlled by `setseed`, `set rndseed=`, or `.option seed=` (all three
* tested independently; see this experiment's README.md "Seed
* reproducibility"). Reproducibility of the *committed* frac_high_* numbers
* therefore rests on the run count (N=80/rung/point), not on the seed value;
* re-running this deck samples a fresh set of draws every time.
*
* THE INJECTED trnoise() SOURCE IS CALIBRATED TO A SPECTRAL DENSITY, NOT TO
* A BAND-LIMITED TOTAL -- this is the methodological core of the bench.
* comparator-preamp-noise/ reports BOTH an integrated total (277.827 uV rms
* at tt_27c_1.20v) and the white density that total was integrated from
* (white_nv_rthz = 59.4598 nV/rtHz OUTPUT-referred, av_dc = 1.63936, so
* 36.27 nV/rtHz INPUT-referred; record
* sim/comparator-preamp-noise/records/20260916-113303-180cca7.md). This deck
* injects the DENSITY at vinp/vinn and lets the LATCH set the bandwidth.
*
* Why not the total? That 277.827 uV is integrated over the reduced
* sub-model's OWN noise bandwidth (enbw_mhz = 58.7 MHz -- a property of a
* diode-connected, loop-broken sub-model, not of a strobed decision). A
* real decision integrates input noise over its own aperture, which is
* set by the regeneration dynamics this deck deliberately instantiates.
* Injecting "the same total rms" over this source's much wider band would
* silently divide the in-band density by the ratio of the two bandwidths
* and understate the answer; injecting the same DENSITY asks the only
* question the reduced sub-model cannot answer for itself.
*
* The SAME injected density is used at EVERY PVT point (deliberately NOT
* re-derived per corner): this isolates what this bench actually adds over
* the AC bench -- how the regenerative dynamics at THIS corner convert a
* GIVEN input noise density into a decision-boundary sigma -- from the front
* end's own already-corner-characterized noise magnitude, the same
* separation-of-concerns comparator-regeneration/ and comparator-offset-mc/
* already make for delay/offset (this experiment's README.md "Method").
*
* NA/TS CALIBRATION (derived analytically AND confirmed empirically against
* this repo's own pinned ngspice-46, not assumed from documentation -- see
* this experiment's README.md "NA/TS calibration" for the derivation and the
* calibration decks that produced it):
*   - The piecewise-linear-interpolated white component of TRNOISE(NA TS
*     NALPHA NAMP) is a linear interpolation of iid N(0,NA^2) samples spaced
*     TS apart, so its two-sided PSD is NA^2*TS*sinc^4(f*TS): a ONE-SIDED
*     density of NA*sqrt(2*TS) V/rtHz at low frequency, and a total variance
*     of (2/3)*NA^2 (since the integral of sinc^4 is 2/3) independent of TS.
*     Both halves confirmed empirically: a TRNOISE source through a 1-pole
*     RC of known ENBW returns NA*sqrt(2*TS*ENBW) to within statistical
*     error at TS = 10 ps and 20 ps and at two different ENBWs, and the
*     unfiltered source rms reads 0.8156*NA vs. the predicted
*     sqrt(2/3) = 0.8165.
*   - TS = 20 ps is chosen safely below the FASTEST measured regeneration
*     time constant on this PVT grid (42.6 ps at ff_-40c_1.32v,
*     sim/comparator-regeneration/records/20260916-021945-36773c7.md), so
*     the injected process is effectively uncorrelated on the latch's own
*     regeneration timescale, and comfortably inside TRNOISE's internal
*     4-sample retry-safety window (ngspice's 1-f-code.h TRNOISE_STATE_MEM_LEN)
*     -- no "ouch, trying to fetch from the past" aborts observed in any
*     calibration or production run. Because the calibration fixes the
*     DENSITY, the answer must not depend on this choice -- and does not:
*     re-running the nominal point at TS = 10 ps with NA rescaled to hold
*     NA*sqrt(2*TS) constant reproduces the same sigma within sampling error
*     (this experiment's README.md "TS-insensitivity cross-check").
*   - vn_na = 5.735e-3 solves vn_na*sqrt(2*vn_ts) = 36.27e-9 at vn_ts = 20 ps.
*   - od_x (the probe overdrive, tb.json "params") is set to 1.0 mV, near the
*     measured 1-sigma decision noise, so each rung's hit rate lands in the
*     informative 0.7-0.95 band instead of saturating at 1.0 where the probit
*     inversion is singular.
*
* WHITE ONLY, DELIBERATELY: trnoise(NA TS 0 0) -- NALPHA/NAMP are zero, so
* no 1/f term is injected. comparator-preamp-noise/ attributes 11.28 % of
* its total noise POWER to flicker, but over ITS OWN 58.7 MHz band; flicker
* power grows as ln(f_hi) while white power grows as f_hi, so over this
* bench's ~0.9 GHz decision aperture the flicker share falls to ~0.9 % of
* power, i.e. ~0.46 % on sigma -- ~1/28 of this bench's own +/-13 % per-
* corner sampling error. Physically: 1/f power sits decades below a ~1 GHz
* aperture, so inside one 5 ns strobe it is a STATIC OFFSET, and offset is
* the offset benches' row (comparator-offset-mc/,
* comparator-offset-transient-mc/), not this one. Injecting it here would
* double-count it. See this experiment's README.md "Why white only".
*
* WHY NO sigma_uv MEASURE IN THIS DECK. Phi^-1(p) diverges as p -> 0 or 1,
* so the inversion is singular if a rung's frac_high ever lands exactly at
* 1.0 (observed at some corners during calibration) -- and ngspice has no
* Phi^-1 builtin at all; `let` has no clamp/min/max builtin this deck can
* guard it with, and a NaN/inf measurement is parsed as MISSING by the
* harness (sim/harness/runner.py's _MEAS_RE), which would mark an otherwise-
* fine point "failed". frac_high_zero/plus/minus are reported raw instead;
* the sigma conversion is a documented, executable post-hoc step over the
* committed record --
*     python3 sim/comparator-transient-noise/probit.py records/<id>.json
* -- whose derivation is this experiment's README.md "Probit inversion".

vsup vdd 0 dc {vdd_val}
vcm  cm 0 dc {dut_vcm}

* ---- zero-overdrive rung: symmetry / noise-is-actually-injected check ----
vd0  vd0 0 dc 0     trnoise({vn_na} {vn_ts} 0 0)
Eap0 ap0 cm vd0 0 0.5
Ean0 an0 cm vd0 0 -0.5
ib0  vdd ibn0 dc {dut_ib}
X0   ap0 an0 clk ibn0 dout0 doutb0 vdd 0 comparator_dut

* ---- +od_x rung: correct decision is HIGH -----------------------------
vd1  vd1 0 dc {od_x} trnoise({vn_na} {vn_ts} 0 0)
Eap1 ap1 cm vd1 0 0.5
Ean1 an1 cm vd1 0 -0.5
ib1  vdd ibn1 dc {dut_ib}
X1   ap1 an1 clk ibn1 dout1 doutb1 vdd 0 comparator_dut

* ---- -od_x rung: correct decision is LOW -------------------------------
.param od_xn={-1*od_x}
vd2  vd2 0 dc {od_xn} trnoise({vn_na} {vn_ts} 0 0)
Eap2 ap2 cm vd2 0 0.5
Ean2 an2 cm vd2 0 -0.5
ib2  vdd ibn2 dc {dut_ib}
X2   ap2 an2 clk ibn2 dout2 doutb2 vdd 0 comparator_dut

* ---- clock: ONE strobe; dout sampled at 5n, inside the evaluate phase ---
* Rises at 1n (+100p edge), so CLK is high 1.1n..5.1n and the 5n readout
* sits 3.9 ns into evaluate -- ~5x the slowest measured 50 mV decision time
* on this grid (0.85 ns, comparator-regeneration/). The transient stops at
* 5.1n, so the deck never simulates the reset it does not need.
vclk clk 0 pulse(0 {vdd_val} 1n 100p 100p 4n 20n)
